US07402592B2
Triisopropyl borate (29.3 mL, 128 mmol) was added over 2 min to a solution of 5-methoxy-3-bromopyridine (20.00 g, 106.4 mmol) in toluene (140 mL) and tetrahydrofuran (35 mL) at −40° C. To this solution was added 2.5 M n-BuLi (51.1 mL, 128 mmol) drop-wise over 35 min while maintaining the temperature at −40° C. After the addition was complete, the reaction was stirred an additional 30 min at −40° C. and then was warmed to −15° C. over one hour. Into the reaction was poured 1 N HCl (175 mL), and the mixture was stirred vigorously for 30 minutes. The layers were separated, and the organic washed once with water (15 mL). The aqueous phases were combined and neutralized (to pH 7) with 5 N NaOH, at which point the boronic acid precipitated out. The biphasic mixture was extracted with THF (3×150 mL). The organic phases were combined, dried over sodium sulfate, filtered, and concentrated to yield 15.36 g of 5-methoxy-3-pyridinylboronic acid as a light brown solid (94%).

reactant | Triisopropyl borate | 128 mmol, 29.3 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 5-methoxy-3-bromopyridine | 106.4 mmol, 20.00 g | COC=1C=C(C=NC1)Br | C6H6BrNO
reactant | n-BuLi | 128 mmol, 2.5 M, 51.1 mL | [Li]CCCC
reactant | HCl | 1 N, 175 mL | Cl | ClH
solvent | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 5-methoxy-3-pyridinylboronic acid | 15.36 g, 94% | COC=1C=C(C=NC1)B(O)O | C6H8BNO3
